US07300907B2
6-Amino-5-chloro-2-(4-chloro-2-fluoro-3-methylthio-phenyl)pyrimidine-4-carboxylic acid methyl ester (2.4 g, 6.63 mmol) was dissolved with heating in a minimum amount of trifluoroethanol (50 mL). After allowing the reaction mixture to cool to room temperature, 30% hydrogen peroxide (3.0 mL, 26.5 mmol) was added and the reaction mixture was stirred for 2 days. An aqueous solution of sodium sulfite (10% solution) was added to quench excess oxidant (exotherm noted) and the reaction mixture was stirred for 1 hour. Additional water was then added and the reaction mixture was filtered. The precipitate was found to be pure 6-amino-5-chloro-2-(4-chloro-2-fluoro-3-methanesulfinylphenyl)pyrimidine-4-carboxylic acid methyl ester (2.13 g, 85% yield): mp 256-258° C.: 1H NMR (CDCl3): δ 8.03 (dd, 1H), 7.54 (dd, 1H), 3.92 (s, 3H), 3.13 (s, 3H).

reactant | 6-Amino-5-chloro-2-(4-chloro-2-fluoro-3-methylthio-phenyl)pyrimidine-4-carboxylic acid methyl ester | 6.63 mmol, 2.4 g | COC(=O)C1=NC(=NC(=C1Cl)N)C1=C(C(=C(C=C1)Cl)SC)F | C13H10Cl2FN3O2S
reactant | hydrogen peroxide | 26.5 mmol, 3.0 mL | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | trifluoroethanol | 50 mL | C(C(F)(F)F)O | C2H3F3O
product | 6-amino-5-chloro-2-(4-chloro-2-fluoro-3-methanesulfinylphenyl)pyrimidine-4-carboxylic acid methyl ester | 2.13 g, 85% yield | COC(=O)C1=NC(=NC(=C1Cl)N)C1=C(C(=C(C=C1)Cl)S(=O)C)F | C13H10Cl2FN3O3S
